US09029544B2
(S)-9-(tert-Butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one
1.69 g (S)-4-chloro-9-hydroxy-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one are dissolved in 60 ml tetrahydrofurane and cooled to 0° C., 2.05 ml 2,6-lutidine and 3.71 ml trifluoromethanesulfonic acid-tert.-butyldimethylsilylester are added dropwise and the mixture is stirred for further 18 hours while warming to room temperature. Then the reaction is quenched by addition of 0.5 ml methanol. The mixture is partitioned between 0.1 M hydrochloric acid and ethylacetate. The aqueous phase is twice extracted with ethylacetate. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 70:30).

reactant | (S)-4-chloro-9-hydroxy-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | 1.69 g | ClC1=NC=2CC(C[C@@H](C2C2=C1C(OC21CCOCC1)=O)O)(C)C | C17H20ClNO4
reactant | 2,6-lutidine | 2.05 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid-tert.-butyldimethylsilylester | 3.71 ml | C(C)(C)(C)[Si](C)(C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | tetrahydrofurane | 60 ml | O1CCCC1 | C4H8O
product | (S)-9-(tert-Butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)Cl)C(OC31CCOCC1)=O | C23H34ClNO4Si
